US09382228B2
A mixture of 2,5-dibromopyrazine (2.42 g, 10.2 mmol), 2-chloro-4-hydroxy pyridine (1.2 g, 9.3 mmol) and Cs2CO3 (3.02 g, 9.26 mmol) in DMF (15 mL) was heated at 70° C. for 16 h with stirring. The mixture was poured into water (150 mL) and stirred for 15 min. The resultant precipitate was collected by filtration, washed with water (4×4 mL) and dried in vacuo to provide 2-bromo-5-((2-chloropyridin-4-yl)oxy)pyrazine (2.24 g, 84%) as an off-white solid. MS (ESI) m/z: 285.9/287.9 (M+H+).

reactant | 2,5-dibromopyrazine | 10.2 mmol, 2.42 g | BrC1=NC=C(N=C1)Br | C4H2Br2N2
reactant | 2-chloro-4-hydroxy pyridine | 9.3 mmol, 1.2 g | ClC1=NC=CC(=C1)O | C5H4ClNO
reactant | Cs2CO3 | 9.26 mmol, 3.02 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 150 mL | O | H2O
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-((2-chloropyridin-4-yl)oxy)pyrazine | 2.24 g, 84% | BrC1=NC=C(N=C1)OC1=CC(=NC=C1)Cl | C9H5BrClN3O
